US04296114
1-(3-Trifluoromethylphenyl)-1,2-dihydro-3-methylquinoxalin-2-one
Preparation as in Example 1 but using ethyl pyruvate and N-(3-trifluoromethylphenyl)benzene-1,2-diamine gave the title compound.

reactant | ethyl pyruvate | C(C(=O)C)(=O)OCC | C5H8O3
reactant | N-(3-trifluoromethylphenyl)benzene-1,2-diamine | FC(C=1C=C(C=CC1)NC=1C(=CC=CC1)N)(F)F | C13H11F3N2
product | 1-(3-Trifluoromethylphenyl)-1,2-dihydro-3-methylquinoxalin-2-one | FC(C=1C=C(C=CC1)N1C(C(=NC2=CC=CC=C12)C)=O)(F)F | C16H11F3N2O
